US05302720
Reaction of 4-fluoro-2-biphenylylisothiocyanate (12 g) in ethanol (10 ml) with 25% aqueous ammonia solution (40 ml) at ambient temperature for 8 hours gave N-(4-fluoro-2-biphenylyl)thiourea as a white solid (m.p. 185°-187° C.).

reactant | 4-fluoro-2-biphenylylisothiocyanate | 12 g | FC=1C=C(C(=CC1)C1=CC=CC=C1)N=C=S | C13H8FNS
reactant | ammonia | 40 ml | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(4-fluoro-2-biphenylyl)thiourea | FC1=CC(=C(C=C1)C1=CC=CC=C1)NC(=S)N | C13H11FN2S
